### PR TITLE
Added results about `mask` and `subseq`

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Some lemmas were missing to juggle with masks and subsequence of bigops.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -1943,6 +1943,14 @@ Proof. by case: b. Qed.
 Lemma mem_mask x m s : x \in mask m s -> x \in s.
 Proof. by rewrite -!has_pred1 => /has_mask. Qed.
 
+Lemma in_mask x m s : uniq s -> x \in s ->
+  (x \in mask m s) = nth false m (index x s).
+Proof.
+elim: s m => [|y s IHs] [|[] m]//= /andP[yNs s_uniq]; rewrite ?in_cons eq_sym;
+have [<-|neq_xy]//= := altP eqP => x_s; do ?by rewrite IHs.
+by apply: contraNF yNs => /mem_mask.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:1952]: The following alternative seems to be slightly general:
```suggestion
Lemma in_mask x m s :
  uniq s -> x \in mask m s = (x \in s) && nth false m (index x s).
Proof.
elim: s m => [|y s IHs] [|[] m]//= /andP[yNs ?]; rewrite ?in_cons ?IHs //=;
by have [->|neq_xy] //= := eqVneq; rewrite ?andbF // (negPf yNs).
Qed.
```

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -2059,6 +2067,13 @@ Qed.
 Lemma subseq_cons s x : subseq s (x :: s).
 Proof. exact: suffix_subseq [:: x] s. Qed.
 
+Lemma cons_subseq s1 s2 x : subseq (x :: s1) s2 -> subseq s1 s2.
+Proof.
+elim: s2 s1 => [|y s2 IHs2] [|z s1]//= in x *.
+by have [<-|neq_xy] := altP eqP => [|/IHs2] zs1_s2;
+   case: ifP => // _; apply: IHs2 zs1_s2.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2075]:
```suggestion
Lemma cons_subseq s1 s2 x : subseq (x :: s1) s2 -> subseq s1 s2.
Proof. exact/subseq_trans/subseq_cons. Qed.
```

File: mathcomp/ssreflect/seq.v [hunk 3]
```diff
@@ -2071,6 +2086,14 @@ Proof. exact/subseq_uniq/take_subseq. Qed.
 Lemma drop_uniq s n : uniq s -> uniq (drop n s).
 Proof. exact/subseq_uniq/drop_subseq. Qed.
 
+Lemma undup_subseq s : subseq (undup s) s.
+Proof.
+elim: s => //= x s IHs; have [xs|xNs] := boolP (x \in s); last by rewrite eqxx.
+have: x \in undup s by rewrite mem_undup.
+case: (undup s) => [|y u]//= in IHs * => _; case: eqP => // _.
+exact: cons_subseq IHs.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2095]:
```suggestion
Lemma undup_subseq s : subseq (undup s) s.
Proof.
elim: s => //= x s; case: (_ \in _); last by rewrite eqxx.
by case: (undup s) => //= y u; case: (_ == _) => //=; apply: cons_subseq.
Qed.
```

Comment (pi8027) [reply mathcomp/ssreflect/seq.v:2095]: This lemma can also be a corollary of `mask_subseq` and the following `undup_mask`.
```coq
Lemma undup_mask (T : eqType) (s : seq T) : {m | undup s = mask m s}.
```

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -2272,6 +2288,18 @@ case: eqP => [-> | _] /IHs[s3 perm_s2] {IHs}.
...
+Lemma subset_maskP s1 s2 : uniq s1 -> {subset s1 <= s2} ->
+  exists2 m : seq bool, size m = size s2 & perm_eq s1 (mask m s2).
+Proof.
+move=> s1_uniq sub_s1_s2; pose s1' := [seq x <- undup s2 | x \in s1].
+have /subseqP[m sm s1'_eq] : subseq s1' s2.
+  by apply: subseq_trans (undup_subseq _); apply: filter_subseq.
+exists m => //; rewrite -s1'_eq; apply: uniq_perm => //.
+  by rewrite filter_uniq ?undup_uniq.
+move=> x; rewrite mem_filter mem_undup.
+by have [x_s1|//] := boolP (x \in s1); rewrite sub_s1_s2.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2300]:
```suggestion
exists m; rewrite // -s1'_eq; apply: uniq_perm => // [|x].
  by rewrite filter_uniq ?undup_uniq.
by rewrite mem_filter mem_undup; have [/sub_s1_s2|] := boolP (x \in s1).
```

**Review by pi8027 — APPROVED** [review]
LGTM, but I have a minor suggestion.

**Comment by pi8027** [comment]
I will squash my suggestions and merge when CI passes.

**Comment by pi8027** [comment]
Sorry I made a mistake on the merging process but this has been merged (not closed) actually.😔
